* C:\Users\emanu\Desktop\DCE-GRUPO10\REALIMENTADOR\LTSpice\Calculo.asc
V1 5V 0 5
V2 0 -5V 5
XU1 N006 N004 15V -15V error AD817
Lf1 Vs vo 33µ
Cf1 vo 0 330n
R5 vo 0 8
V8 15V 0 15
V9 0 -15V 15
V10 VCC 0 30
V11 0 VEE 30
V4 Vf 0 AC 1
B1 Vs 0 V=20*delay(V(error), 200n)
R3 N004 N001 1k
R1 N006 0 1k
R6 Vf N002 19k
R7 0 N002 1k
C4 COMP N007 22p
R10 COMP N007 9k
R11 COMP 0 1k
R12 N005 f 19k
R13 0 f 1k
C5 N005 f 68p
V3 N007 0 AC 1
Lf2 N003 LC 33µ
Cf2 LC 0 330n
R14 LC 0 8
V5 N005 0 AC 1
B2 N003 0 V=delay(V(i), 200n)
V6 i 0 AC 1
R8 N006 0 {R}
R9 error N004 {R}
XU2 N002 N001 15V -15V N001 AD817
C1 error N004 {C}
C3 N006 0 {C}
.ac dec 10000 0.1 10Meg
.include AD817.301
.include LM311.301
.options plotwinsize = 0
.options numdgt = 15
.model SW SW(Ron=.01 Roff=10Meg Vt=1)
.include TL082.301
.param R=8.2k
.param C=220p
.backanno
.end
