* C:\Users\emanu\Desktop\DCE-GRUPO10\REALIMENTADOR\LTSpice\Test.asc
Lf N005 Vo 33µ
Cf Vo 0 300n
RL Vo 0 8
VCC VCC 0 30
VSS 0 VEE 30
V1 5V 0 5
V§SENOIDAL Vsin 0 SINE(0 1.1 20k)
V2 0 -5V 5
V5 15V 0 15
V6 0 -15V 15
S1 N005 VCC N001 0 SW
S2 N005 VEE 5V N001 SW
V§TRIANGULAR Vtriang 0 PULSE(-1.5 1.5 0 2.5u 2.5u 0 5u)
B1 N001 0 V{ if( V(error) > V(Vtriang), 5, 0) }
R1 Vo Vf 22k
R2 Vf 0 1.2k
XU1 N004 N002 15V -15V N003 LM318
R5 N004 Vsin 1k
R6 0 N004 {R}
R7 Vf N002 1k
R8 N003 N002 {R}
C1 error N003 100p
R3 error N003 9.1k
R4 0 error 1.8k
.tran 0 500u 0 uic
.include UCC20520.301
* Fuentes
* Bibliotecas
* Salida
* Filtro
.include PHB27NQ10T.lib
.include BS170.301
.include LM311.301
.include LM318.301
* Directivas SPICE
* Entrada
* Etapa de salida
.options numdgt = 15
* Doble precision
.options plotwinsize = 0
* Deshabilitar la compresion
.four 20k 3 -1 V(vo)
.model SW SW(Ron=.01 Roff=10Meg Vt=1)
.Param R=100k
.backanno
.end
