* C:\Users\emanu\Desktop\DCE-GRUPO10\REALIMENTADOR\LTSpice\Test2.asc
V1 15V 0 15
V2 0 -15V 15
V3 N001 0 AC 1
R1 Vor N006 100k
R2 0 N006 1k
R3 N002 N001 1k
R4 0 N002 100k
XU1 N002 N006 15V -15V Vor LM318
V4 N003 0 AC 1
R5 N005 N007 5.1k
R6 0 N007 1k
R7 N004 N003 1k
R8 0 N004 5.1k
XU2 N004 N007 15V -15V N005 LM318
.ac dec 10000 20 10Meg
.include LM318.301
.backanno
.end
