*$
*UCC20520
*****************************************************************************
* (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: UCC20520
* Date: 05OCT2016
* Model Type:  TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: NA
* EVM Users Guide: NA
* Datasheet: SLUSCN0 –JULY 2016–REVISED JULY 2016
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
*
* 1. The following features have been modeled
*      a. Switching Characteristics such as propagation delay, rise/fall time
*      b. VCCI UVLO and VDDA/VDDB UVLO turn-on/turn-off propagation delays
*      c. Operating Current v/s VDDA/VDDB, switching frequency and Cload at 
*         room temperature
*      d. Deadtime and overlap programming
*      e. Peak output source/sink current
* 2. This model is for 8V UVLO version
* 3. Temperature effects have not been modeled. 
*
*****************************************************************************
.SUBCKT UCC20520_TRANS DISABLE DT GND NC_0 NC_1 NC_2 NC_3 OUTA OUTB PWM VCCI_0
+  VCCI_1 VDDA VDDB VSSA VSSB  
E_E8         N16673112 0 INB_OK 0 1
E_E6         N16672784 OUTB VALUE { if ( V(DRVB, 0) >2.5, 12 , 0 ) }
E_ABM2         PWMIN 0 VALUE { if ( V(INA_INT) > V(N16672306), 1 , 0 )    }
E_E15         N17110038 VSSA N17110019 0 1
E_ABM23         N16671640 0 VALUE { IF( V(N16671552) > V(N16672106) , 5 , 0 )  
+   }
E_ABM1         UVLO1 0 VALUE { if ( V(VCCI_INT) > V(N16669842), 5 , 0 )    }
X_M13         N17088411 N17110038 VSSA lowmos PARAMS:
R_R47         UVLO2 N167201110  340 TC=0,0 
E_E27         INB_OKD 0 INB_OK 0 1
C_C39         VSSA N17127259  110p  
C_C2         0 UVLO2_DELAYED  1.443n  TC=0,0 
I_IQuiescentB         VDDB VSSB DC 1.2m  
X_U54         DIS N16698404 INV_BASIC_GEN PARAMS: VDD=5 VSS=0 VTHRESH=2.5
C_C33         0 N16671552  1n IC=0 
R_R5         0 INB_OK  1K TC=0,0 
C_C1         0 UVLO1_DELAYED  1.443n  TC=0,0 
R_R45         N16672776 VDDB  0.5 TC=0,0 
E_E21         VCCI_INT 0 VCCI_0 GND 1
E_E22         N16670780 0 VDDA VSSA 1
E_ABM4         UVLO2 0 VALUE { if ( V(N16670780) > V(N16668898), 5 , 0 )    }
X_U48         INA_OKD N17407797 d_d1 PARAMS:
R_R30         PWMIN N16672528  5 TC=0,0 
R_R6         UVLO2B UVLO2B_DELAYED  50k TC=0,0 
G_ABM2I2         N16671580 N16671552 VALUE { IF(V(INA_OKD) < 2.5 ,
+  If(V(DEAD_THRESH)< 5u, 0.35, LIMIT((V(DEAD_THRESH)*100/V(VCCI_INT)), 0.35,0)),
+  0)    }
R_R46         UVLO1 N167208610  770 TC=0,0 
T_T3         N16671236 0 N16669674 0 Z0=1K TD=19n  
E_ABM32         N16672594 0 VALUE { IF( (V(NO_DT)>2.5 |  
+ +V(DRVB_PASS) >2.5) &  
+ +V(N16669858) >2.5, 5, 0)   }
X_M15         N16672968 N17051771 VSSB lowmos PARAMS:
C_C32         0 N16671702  1n  
C_C35         0 N17396123  1.443n  
X_U40         N16671552 N16671580 d_d1 PARAMS:
E_ABM24         N16670228 0 VALUE { IF( V(N16670120) > V(N16670672) , 5 , 0 )  
+   }
E_E11         N16670896 N16670888 N17198437 0 {-0.5/5}
E_ABM25         NO_DT 0 VALUE { IF(V(DEAD_THRESH) <1n, 5,0)    }
R_R52         N17110021 N17110019  3.3 TC=0,0 
X_U47         INB_OKD N17396123 d_d1 PARAMS:
X_U57         UVLO2B_DELAYED N167216030 d_d1 PARAMS:
C_C29         0 N16671468  1n  
C_C28         0 N16670120  1n IC=0 
C_C40         VSSB N17167704  110p  
X_U55         UVLO1_DELAYED N167208610 d_d1 PARAMS:
C_C42         0 N17198437  1n  
R_R54         N17198437 UVLO2B  1 TC=0,0 
V_V8         N16671580 0 2
X_U33         OUTA VDDA d_d1 PARAMS:
E_ABM29         N16671850 0 VALUE { IF( V(INA_OKD)<2.5 &  
+ +V(N16671830) >2.5, 5, 0 )   }
E_ABM20         INA_PRE 0 VALUE { IF(V(N16672528) > 0.51 , 5 , 0)    }
X_U42         UVLO2_DELAYED FAULT_INP N16670790 AND2_BASIC_GEN PARAMS: VDD=5
+  VSS=0 VTHRESH=2.5
C_C27         0 N16673790  1.443N  
C_C43         0 N17201974  1n  
E_E28         INA_OKD 0 INA_OK 0 1
I_IQuiescentA         VDDA VSSA DC 1.2m  
C_C30         0 N16670162  1.443n  
E_E23         N16671044 0 VDDB VSSB 1
E_E1         N16669842 N16669834 N17201974 0 {-0.2/5}
R_R35         INB_OKD N16670162  3.5 TC=0,0 
R_R28         DISABLE GND  200k TC=0,0 
C_C37         0 N17051744  2n  
V_V1         N16669834 0 2.7
R_R4         0 INA_OK  1K TC=0,0 
R_R29         N16671166 N16671236  1 TC=0,0 
R_R40         INB_OKD N17396123  2 TC=0,0 
R_R36         N16671640 N16671702  1 TC=0,0 
E_ABM22         PWMINB 0 VALUE { IF(V(PWMIN)>0.5,0,1)    }
I_Iq_vcc         VCCI_0 GND DC 2.5m  
X_U37         N16670120 N16670154 d_d1 PARAMS:
X_U44         UVLO1_DELAYED N16698404 FAULT_INP AND2_BASIC_GEN PARAMS: VDD=5
+  VSS=0 VTHRESH=2.5
E_E25         N16673358 0 DISABLE GND 1
X_S1    N16670408 0 N16670120 0 UCC20520_TRANS_S1 
V_V10         N16670888 0 8.5
X_H1    N16670816 DT DEAD_THRESH 0 UCC20520_TRANS_H1 
X_M14         N16672776 N16672784 OUTB highmos PARAMS:
R_R3         GND PWM  200k TC=0,0 
E_E3         N16669308 OUTA VALUE { if ( V(DRVA, 0) >2.5, 12, 0 ) }
V_V11         NC_2 0 0
C_C38         0 N17110019  2n  
R_R34         N16670228 N16671468  1 TC=0,0 
C_C44         0 N17407797  1.443n  
V_V6         N16670672 0 1
R_R49         N16970878 VDDA  0.5 TC=0,0 
E_ABM26         N16670408 0 VALUE { IF( V(INB_OKD)<2.5 &  
+ +V(N16670162) >2.5, 5, 0 )   }
V_V12         NC_1 0 0
E_E7         N16669580 0 INA_OK 0 1
E_E12         N16673492 N16673432 N16671166 0 {-0.8/5}
X_S6    N17167706 0 N17167704 VSSB UCC20520_TRANS_S6 
R_R33         PWMINB N16673790  5 TC=0,0 
E_E19         INA_INT 0 PWM GND 1
C_C23         0 N16671236  1.443N  
E_ABM21         INB_PRE 0 VALUE { IF(V(N16673790) > 0.51 , 5 , 0)    }
R_R44         N17051757 N17051744  3.3 TC=0,0 
E_E24         DIS 0 N16669674 0 1
X_S3    DRVA 0 VDDA N17127259 UCC20520_TRANS_S3 
V_V13         NC_0 0 0
R_R2         UVLO2 UVLO2_DELAYED  50k TC=0,0 
X_U38         INB_OKD N16670162 d_d1 PARAMS:
R_R38         0 N16669674  1k TC=0,0 
X_U61         DRVA N17153666 INV_BASIC_GEN PARAMS: VDD=5 VSS=0 VTHRESH=2.5
R_R51         N16672968 OUTB  0.135 TC=0,0 
R_R42         N16670816 VCCI_0  1 TC=0,0 
V_V2         N16672276 0 1.8
X_U35         OUTB VDDB d_d1 PARAMS:
C_C3         0 UVLO2B_DELAYED  1.443n  TC=0,0 
E_ABM31         N16669068 0 VALUE { IF( (V(NO_DT)>2.5 |  
+ +V(DRVA_PASS) >2.5) &  
+ +V(N16670790) >2.5, 5, 0)   }
E_E14         N17051771 VSSB N17051744 0 1
E_ABM27         DRVA_PASS 0 VALUE { IF( V(N16671468)>2.5 &  
+ +V(N17396123) < 2.5, 5, 0)    }
E_E9         N17051757 0 VALUE { if ( V(DRVB, 0) <2.45, 5, 0 ) }
X_U56         UVLO2_DELAYED N167201110 d_d1 PARAMS:
R_R1         UVLO1 UVLO1_DELAYED  36k TC=0,0 
V_V14         NC_3 0 0
R_R43         GND DT  1G TC=0,0 
X_U59         N17051744 N17051757 d_d1 PARAMS:
G_ABM2I1         N16670154 N16670120 VALUE { IF(V(INB_OKD) < 2.5 ,
+  If(V(DEAD_THRESH)< 5u, 0.35, LIMIT((V(DEAD_THRESH)*100/V(VCCI_INT)), 0.35,0)),
+  0)    }
C_C41         0 N17196585  1n  
V_V9         N16672106 0 1
X_U60         N17110019 N17110021 d_d1 PARAMS:
X_S4    N17153666 0 N17127259 VSSA UCC20520_TRANS_S4 
T_T2         INB_PRE 0 INB_OK 0 Z0=1K TD=14n  
E_ABM6         DRVB 0 VALUE { IF(V(N16672594) > 2.5, V(N16673112), 0)    }
R_R56         INA_OKD N17407797  2 TC=0,0 
X_S5    DRVB 0 VDDB N17167704 UCC20520_TRANS_S5 
X_M12         N16970878 N16669308 OUTA highmos PARAMS:
X_U43         UVLO2B_DELAYED FAULT_INP N16669858 AND2_BASIC_GEN PARAMS: VDD=5
+  VSS=0 VTHRESH=2.5
E_ABM28         DRVB_PASS 0 VALUE { IF( V(N16671702)>2.5 &  
+ +V(N17407797) < 2.5, 5, 0)    }
R_R55         N17201974 UVLO1  1 TC=0,0 
R_R48         UVLO2B N167216030  340 TC=0,0 
E_ABM7         UVLO2B 0 VALUE { if ( V(N16671044) > V(N16670896), 5 , 0 )    }
V_V7         N16673432 0 1.8
V_V3         N16668890 0 8.5
T_T1         INA_PRE 0 INA_OK 0 Z0=1K TD=14n  
X_U62         DRVB N17167706 INV_BASIC_GEN PARAMS: VDD=5 VSS=0 VTHRESH=2.5
E_E4         N17110021 0 VALUE { if ( V(DRVA, 0) <2.45, 5, 0 ) }
V_V5         N16670154 0 2
R_R37         INA_OKD N16671830  3.5 TC=0,0 
E_ABM8         N16671166 0 VALUE { if ( V(N16673358) > V(N16673492), 5 , 0 )   
+  }
C_C24         0 N16672528  1.443n  
E_E5         N16668898 N16668890 N17196585 0 {-0.5/5}
R_R53         N17196585 UVLO2  1 TC=0,0 
E_E2         N16672306 N16672276 PWMIN 0 {-0.8}
C_C31         0 N16671830  1.443n  
X_S2    N16671850 0 N16671552 0 UCC20520_TRANS_S2 
X_U39         INA_OKD N16671830 d_d1 PARAMS:
R_R50         N17088411 OUTA  0.135 TC=0,0 
E_ABM5         DRVA 0 VALUE { IF(V(N16669068) > 2.5, V(N16669580), 0)    }
.ENDS UCC20520_TRANS
*$
.subckt UCC20520_TRANS_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e9 Ron=10m Voff=1 Von=4
.ends UCC20520_TRANS_S1
*$
.subckt UCC20520_TRANS_H1 1 2 3 4  
H_H1         3 4 VH_H1 1
VH_H1         1 2 0V
.ends UCC20520_TRANS_H1
*$
.subckt UCC20520_TRANS_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=1e6 Ron=5m Voff=0.5V Von=4.5V
.ends UCC20520_TRANS_S6
*$
.subckt UCC20520_TRANS_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e6 Ron=25 Voff=0.5V Von=4.5V
.ends UCC20520_TRANS_S3
*$
.subckt UCC20520_TRANS_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e6 Ron=5m Voff=0.5V Von=4.5V
.ends UCC20520_TRANS_S4
*$
.subckt UCC20520_TRANS_S5 1 2 3 4  
S_S5         3 4 1 2 _S5
RS_S5         1 2 1G
.MODEL         _S5 VSWITCH Roff=1e6 Ron=25 Voff=0.5V Von=4.5V
.ends UCC20520_TRANS_S5
*$
.subckt UCC20520_TRANS_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e9 Ron=10m Voff=1 Von=4
.ends UCC20520_TRANS_S2
*$
.subckt d_d1 1 2 
d1 1 2 dd
.model dd d
+ n=0.001
.ends d_d1
*$
.subckt lowmos d g s
m1 d g s s _mod
.model _mod nmos
+ kp=2e-009
+ w=2.4
+ l=1e-008
+ vto=0
+ n=2.5
+ rg=0
+ cgso=0
.ends lowmos
*$
.subckt highmos d g s
m1 d g s s _mod
.model _mod nmos
+ kp=2e-009
+ w=0.285
+ l=1e-008
+ vto=0
+ n=2.5
.ends highmos
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$