**********************************************************
*
* BC849C
*
* Nexperia
*
* General purpose NPN transistor
* IC   = 100 mA
* VCEO = 30 V 
* hFE  = 420 - 800 @ 5V/2mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* Extraction date (week/year): 42/2018
* Spicemodel includes temperature dependency
*
**********************************************************
*#
*
* Diode D1, Transistor Q2 and resistor RQ 
* are dedicated to improve modeling of quasi
* saturation area and reverse mode operation
* and do not reflect physical devices.
* 
.SUBCKT BC849C 1 2 3 
Q1 1 2 3 Transistor AREA 0.9342
Q2 11 2 3 Transistor AREA 0.0658
RQ 1 11 662.1
D1 2 1 Diode
*
.MODEL Transistor NPN
+ IS = 1.641E-014
+ NF = 0.9969
+ ISE = 1.151E-016
+ NE = 1.208
+ BF = 509
+ IKF = 0.0863
+ VAF = 66.64
+ NR = 0.9953
+ ISC = 1.068E-014
+ NC = 1.357
+ BR = 9.832
+ IKR = 0.1524
+ VAR = 25
+ RB = 360
+ IRB = 2.5E-005
+ RBM = 0.8
+ RE = 0.6403
+ RC = 0.5461
+ XTB = 1.595
+ EG = 1.11
+ XTI = 6.27
+ CJE = 1.119E-011
+ VJE = 0.6755
+ MJE = 0.3391
+ TF = 5.25E-010
+ XTF = 22.74
+ VTF = 2
+ ITF = 0.368
+ PTF = 0
+ CJC = 3.693E-012
+ VJC = 0.5083
+ MJC = 0.3642
+ XCJC = 1
+ TR = 0.0008
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.9552
*
.MODEL Diode D
+ IS = 4.418E-016
+ N = 0.9799
+ BV = 1000
+ IBV = 0.001
+ RS = 3460
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*
